US05250669
(1) Synthesis of 1,7-bis(4-chlorophenyl)-3,5-heptanedione
Using 2,4-pentanedione (20.0 g, 0.2 mol) and 4-chlorobenzyl chloride (74.7 g), the reaction was carried out in the same manner as described in Example 17, (1), and the residual orange red semisolid (69 g) was recrystallized from methanol to give the title compound as s white prisms which was an ca 3:17 mixture of Keto/Enol as seen by the methylene singlet at δ3.51 ppm and the methine singlet at δ5.37 ppm in the 1HNMR spectrum; yield: 24.7 g; mp 74.6°-76.1° C.

reactant | 2,4-pentanedione | 0.2 mol, 20.0 g | CC(CC(C)=O)=O | C5H8O2
reactant | 4-chlorobenzyl chloride | 74.7 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | 1,7-bis(4-chlorophenyl)-3,5-heptanedione | ClC1=CC=C(C=C1)CCC(CC(CCC1=CC=C(C=C1)Cl)=O)=O | C19H18Cl2O2
